US07915288B2
A mixture of 4-methoxy-2-methylbenzoic acid (10 g, 60 mmol) and dimethyl carbonate (10 ml, 120 mmol) in THF (80 ml) is added dropwise to LDA (120 ml of 2M in heptane/THF/ethylbenzene) at −78° C. The cold bath is removed, and after 4 h, water (100 ml) is added, and the resulting mixture is stirred overnight. After removal of organic solvents, the residue is acidified with c-HCl to pH 2. The resulting solid is filtered, dissolved in 1N—NaOH (80 ml), and then washed with ether (2×30 ml). The aqueous layer is acidified with c-HCl and the resulting white solid is filtered to give 12 g of 2-carboxymethyl-4-methoxy-benzoic acid. 1H NMR (DMSO) 12.3 (br s, 1H), 7.88 (d, 1H), 6.91 (d, 1H), 6.88 (s, 1H), 3.90 (s, 2H), 3.79 (s, 3H).

reactant | 4-methoxy-2-methylbenzoic acid | 60 mmol, 10 g | COC1=CC(=C(C(=O)O)C=C1)C | C9H10O3
reactant | dimethyl carbonate | 120 mmol, 10 ml | C(OC)(OC)=O | C3H6O3
reactant | LDA | 2M, 120 ml | [Li+].CC(C)[N-]C(C)C
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 2-carboxymethyl-4-methoxy-benzoic acid | 12 g | C(=O)(O)CC1=C(C(=O)O)C=CC(=C1)OC | C10H10O5
